US06051712
In an analogous manner to that described in Example 38, by condensing tert-butyl (3RS,4RS)-4-{4-[2-(N-hydroxy-carbamimidoyl)-ethyl]-phenyl}-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate with benzoic acid in the presence of EDC and subsequent cyclization there was obtained tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-[2-(5-phenyl-[1,2,4]oxadiazol-3-yl)-ethyl]-phenyl]-piperidine-1-carboxylate; MS: 590 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-{4-[2-(N-hydroxy-carbamimidoyl)-ethyl]-phenyl}-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | ONC(=N)CCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C30H37N3O4
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | EDC
product | tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-[2-(5-phenyl-[1,2,4]oxadiazol-3-yl)-ethyl]-phenyl]-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)CCC1=NOC(=N1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C37H39N3O4
